US06479487B1
1-(3-Pyridinylmethyl)-4-piperidone is prepared from 4-piperidone and 3-picolyl chloride hydrochloride essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 3-picolyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CCl
product | 1-(3-Pyridinylmethyl)-4-piperidone | N1=CC(=CC=C1)CN1CCC(CC1)=O | C11H14N2O
